US05250547
A solution containing 6-nitro-3-acetamidomethyl-3,4-dihydro-3,4-epoxy-2,2-dimethyl-2H-1-benzopyran (0.5 g, 1.72 mmol), 2-pyrrolidinone (0.3 g, 3.48 mmol) and Triton B (40% in ethanol, 0.1 ml) in dioxane (10 ml) was heated at 50° C. for eighteen hours. Water and ethyl acetate were added, and the organic phase separated and evaporated under reduced pressure. The residue was chromatographed on silica gel, eluting with dichloromethane/methanol (95/5), to give crude product which on triturating with diethyl ether afforded 0.14 g of 6-nitro-2,2-dimethyl-3-acetamidomethyl-4-(2-oxopyrrolidin-1-yl)-2H-1-benzopyran, m.p. 205° C.

reactant | 6-nitro-3-acetamidomethyl-3,4-dihydro-3,4-epoxy-2,2-dimethyl-2H-1-benzopyran | 1.72 mmol, 0.5 g | [N+](=O)([O-])C=1C=CC2=C(C3C(C(O2)(C)C)(O3)CNC(C)=O)C1 | C14H16N2O5
reactant | 2-pyrrolidinone | 3.48 mmol, 0.3 g | N1C(CCC1)=O | C4H7NO
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 6-nitro-2,2-dimethyl-3-acetamidomethyl-4-(2-oxopyrrolidin-1-yl)-2H-1-benzopyran | 0.14 g | [N+](=O)([O-])C=1C=CC2=C(C(=C(C(O2)(C)C)CNC(C)=O)N2C(CCC2)=O)C1 | C18H21N3O5
